US04889929
585 g Diethylcarbonate (4.92 mole) was heated by an external 1500 w iodine quartz lamp. The mixture was allowed to reflux (temperature 125°) by the heat evolved from the lamp. 318.2 g (2.0 mole) of bromine is added slowly during 3 hours through a dip-pipe at such a rate that the solution colour was yellow to light orange. The temperature dropped to ca. 120° at the beginning of the addition, but rose again slowly. When all the bromine was consumed the temperature was 137°. The reaction mixture was cooled and treated as described in Example 2. Fractional distillation afforded 1-bromoethyl ethyl carbonate in a 68.5% yield. The earlier fraction contained about 6.5% more of 1-bromoethyl ethyl carbonate.

reactant | Diethylcarbonate | 4.92 mole, 585 g | C(C)OC(OCC)=O | C5H10O3
reactant | bromine | 2.0 mole, 318.2 g | BrBr | Br2
product | 1-bromoethyl ethyl carbonate | 68.5% yield | C(OC(C)Br)(OCC)=O | C5H9BrO3
